US09284331B2
Step 1: 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxycyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
113-1. A solution of 2-(4-ethyl-1H-imidazol-1-yl)-9-iodo-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (250 mg, 0.58 mmol) in dry THF was cooled to −78° C. under Ar and a solution of iPrMgCl*LiCl (1.78 mL, 2.31 mmol) was added dropwise. The mixture was stirred at −78° C. for 30 min and cyclobutanone (0.22 mL, 2.90 mmol) was then added dropwise. The mixture was stirred at −78° C. for another 30 min and then at RT for 4 h. The mixture was poured onto a saturated aq. solution of NH4Cl and the mixture was extracted with AcOEt. The combined org. phases were then dried over Na2SO4, filtered and concentrated in vacuo. The residue obtained was purified by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 9:1) gave the title compound (129 mg) as a red solid. UPLC-MS: MS 377.3 (M+H+); UPLC rt 0.76 min.

reactant | 2-(4-ethyl-1H-imidazol-1-yl)-9-iodo-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.58 mmol, 250 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)I)=C1)=O | C18H17IN4O
reactant | iPrMgCl | 2.31 mmol, 1.78 mL | C(C)(C)[Mg]Cl
reactant | cyclobutanone | 2.90 mmol, 0.22 mL | C1(CCC1)=O | C4H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxycyclobutyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 129 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C2(CCC2)O)=C1)=O | C22H24N4O2
